US07319099B2
Preparation of 4-[4-(2-Fluoro-6-isopropoxy-3-methanesulfonyl-benzoyl)-piperazin-1-yl]-benzonitrile
The compound was prepared in analogy to example 359 from 4-[4-(2,6-difluoro-3-methanesulfonyl-benzoyl)-piperazin-1-yl]-benzonitrile and sodium isopropanolate. MS (m/e): 446.0 (MH+, 49%)

reactant | 4-[4-(2,6-difluoro-3-methanesulfonyl-benzoyl)-piperazin-1-yl]-benzonitrile | FC1=C(C(=O)N2CCN(CC2)C2=CC=C(C#N)C=C2)C(=CC=C1S(=O)(=O)C)F | C19H17F2N3O3S
reactant | sodium isopropanolate | C(C)(C)[O-].[Na+]
product | 4-[4-(2-Fluoro-6-isopropoxy-3-methanesulfonyl-benzoyl)-piperazin-1-yl]-benzonitrile | FC1=C(C(=O)N2CCN(CC2)C2=CC=C(C#N)C=C2)C(=CC=C1S(=O)(=O)C)OC(C)C | C22H24FN3O4S
